US05693841
In the same manner as in Example 6, 25 g of 4-(4-fluorophenyl)phenylmagnesium bromide was reacted with 31.5 g of 4-(4-phenyl-4-n-propyl-4-silacyclohexyl)cyclohexanone and the resultant alcohol was dehydrated, followed by catalytic reduction to obtain 4-(4-phenyl-4-n-propyl-4-silacyclohexyl)cyclohexyl-4'-fluorobiphenyl. The biphenyl product was then reacted with iodine monochloride, followed by reduction with lithium aluminohydride to obtain 14.4 g (yield: 36%) of the intended product. The product was subjected to NMR and IR analyses with the results shown below.

reactant | 4-(4-fluorophenyl)phenylmagnesium bromide | 25 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)[Mg]Br
reactant | 4-(4-phenyl-4-n-propyl-4-silacyclohexyl)cyclohexanone | 31.5 g | C1(=CC=CC=C1)[Si]1(CCC(CC1)C1CCC(CC1)=O)CCC | C20H30OSi
product | 4-(4-phenyl-4-n-propyl-4-silacyclohexyl)cyclohexyl-4'-fluorobiphenyl | C1(=CC=CC=C1)[Si]1(CCC(CC1)C1CCC(CC1)C1=C(C=CC=C1)C1=CC=C(C=C1)F)CCC | C32H39FSi
